US04053600
A mixture of 500 mg 5-chloro-8,9-dimethoxy-1,2,4-triazolo[4,3-c]quinazoline and 25 ml triethylamine in 25 ml. methanol is stirred at 40° C. for 24 hrs. The solution is then evaporated in vacuo to dryness, treated with water, and the aqueous layer extracted several times with chloroform. The combined chloroform extracts, after washing with H2O, is dried over sodium sulfate and evaporated in vacuo to dryness. The residue is dissolved in minimum chloroform and chromotrographed on silica gel, elution being carried out with chloroform and then with chloroform containing increasing concentrations of methanol. The desired fractions are collected, evaporated to dryness in vacuo and the residue crystallized from methylene chloride/diethyl ether to obtain 5,8,9-Trimethoxy-1,2,4-triazolo-[4,3-c]quinazoline, m.p. 245°-250° C.

reactant | 5-chloro-8,9-dimethoxy-1,2,4-triazolo[4,3-c]quinazoline | 500 mg | ClC1=NC=2C=C(C(=CC2C=2N1C=NN2)OC)OC | C11H9ClN4O2
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
product | 5,8,9-Trimethoxy-1,2,4-triazolo-[4,3-c]quinazoline | COC1=NC=2C=C(C(=CC2C=2N1C=NN2)OC)OC | C12H12N4O3
